US05041670
20 parts freshly distilled ether, 1.19 parts (0.01 mole) phenyl isocyanate and 0.19 part (0.01 mole) of water were combined and reacted as described in Example 1. The isolation techniques described in Example 2 were conducted. 0.70 part (94% yield) diphenylurea was recovered having a melting point of 253° C. An isocyanate and water produce urea in the absence of a boron complexing agent.

reactant | phenyl isocyanate | 0.01 mole | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | water | 0.01 mole | O | H2O
solvent | ether | CCOCC | C4H10O
product | diphenylurea | 94% yield | C=1C=CC(=CC1)NC(=O)NC=2C=CC=CC2 | C13H12N2O
